US07034039B2
A solution of (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenic acid (0.71 g, 1.5 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.58 g, 3 mmol) and 1-hydroxybenzotriazole ammonium salt (0.46 g, 3 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenamide (0.67 g, 95.7%) as crystals.

reactant | (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenic acid | 1.5 mmol, 0.71 g | C(CCC)OC1C(N(C(C2=CC=CC=C12)=O)CC1CC1)(CNC(=O)OC(C)(C)C)/C=C/C(=O)O | C26H36N2O6
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3 mmol, 0.58 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole ammonium salt | 3 mmol, 0.46 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenamide | 0.67 g, 95.7% | C(CCC)OC1C(N(C(C2=CC=CC=C12)=O)CC1CC1)(CNC(=O)OC(C)(C)C)/C=C/C(=O)N | C26H37N3O5
